US05424311
(2RS)-1-(Isopropenyloxycarbonyl)-2-methyl-1,2-dihydro-1,4,6-triazanaphthalen-3(4H)-one
(2RS)-2-Methyl-1,2-dihydro-1,4,6-triazanaphthalen-3(4H)-one (A. Albert, G. B. Barlin J. Chem. Soc. 1963, 5156) (570 mg, 3.5 mmol) was dissolved in 30 ml of anhydrous pyridine and cooled in an ice bath. 0.42 ml (3.8 mmol) of isopropenyl chloroformate was added dropwise, and the mixture was subsequently stirred at room temperature overnight. Concentration, chromatography on silica gel (ethyl acetate/methanol=20:1) and crystallization (pentane/diethyl ether) resulted in 100 mg (12%) of the desired product of melting point 170°-171° C.

reactant | (2RS)-2-Methyl-1,2-dihydro-1,4,6-triazanaphthalen-3(4H)-one | CC1NC2=CC=NC=C2NC1=O | C8H9N3O
reactant | isopropenyl chloroformate | 3.8 mmol, 0.42 ml | ClC(=O)OC(=C)C | C4H5ClO2
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | (2RS)-1-(Isopropenyloxycarbonyl)-2-methyl-1,2-dihydro-1,4,6-triazanaphthalen-3(4H)-one | 100 mg, 12% | C(=C)(C)OC(=O)N1C(C(NC2=CN=CC=C12)=O)C | C12H13N3O3
